US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (560 mg, 0.816 mmol) (obtained as described in Reference Example 52(5)) in anhydrous tetrahydrofuran (17 ml) was added successively acetic acid (56 μl, 0.980 mmol) and a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (980 μl, 0.980 mmol) in an ice bath. The mixture was stirred in the ice bath for 1.5 hours. After checking the completion of the reaction, ethyl acetate and water were added thereto and the aqueous layer was extracted with ethyl acetate. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→ethyl acetate:methanol (95:1) as the eluant to afford 3-hydroxy-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (359 mg, yield 98%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 0.816 mmol, 560 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C35H39N5O6SSi
reactant | acetic acid | 0.980 mmol, 56 μl | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.980 mmol, 980 μl | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-hydroxy-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 359 mg, yield 98% | OC1CN(C1)C=1SC=C(N1)C(N[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H21N5O6S
